US08536209B2
5-(6-Trifluoromethyl-pyridin-2-yl)-oxazole-4-carboxylic acid lithium salt
Prepared starting from 6-trifluoromethyl-pyridine-2-carboxylic acid following sequentially general procedures M and E (using LiOH). LC-MS-conditions 02: tR=0.80 min; [M+H]+=259.12.

reactant | 6-trifluoromethyl-pyridine-2-carboxylic acid | FC(C1=CC=CC(=N1)C(=O)O)(F)F | C7H4F3NO2
reactant | LiOH | [Li+].[OH-]
product | 5-(6-Trifluoromethyl-pyridin-2-yl)-oxazole-4-carboxylic acid lithium salt | [Li+].FC(C1=CC=CC(=N1)C1=C(N=CO1)C(=O)[O-])(F)F | InChI=1S/C10H5F3N2O3.Li/c11-10(12,13)6-3-1-2-5(15-6)8-7(9(16)17)14-4-18-8;/h1-4H,(H,16,17);/q;+1/p-1
